US07030267B2
To a solution of 1-cyano-2-isopropyl-cyclopropanecarboxylic acid methyl ester (7.7 g, 46.1 mmol) and cobaltous chloride hexahydrate (21.9 g, 92.2 mmol) in MeOH (560 mL) was added sodium borohydride (NaBH4) (17.4 g, 461 mmol) in portions. The black precipitate formed was stirred for 1 hour at room temperature and was quenched with 0.5N HCl (200 mL). After the black precipitate dissolved, excess of solvent was removed and aqueous layer was made alkaline by addition of 2N sodium hydroxide (NaOH). The alkaline solution was added slowly to a solution of di-tert-butyldicarbonate (20.1 g, 92.2 mmol) in dichloromethane (400 mL). The reaction mixture was stirred at room temperature overnight and the organic layer was separated and washed with brine and dried (Na2SO4). Evaporation of excess of solvent followed by purification of the residue by column chromatography using hexanes/EtOAc (9:1) as an eluent furnished 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid methyl ester (10.9 g, 88%) as colorless oil: 1H NMR (300 MHz, CD3OD) δ 0.76 (m, 1H), 0.97 (d, J=6.3 Hz, 3H), 1.05 (d, J=6.3 Hz, 3H), 1.26–1.31 (m, 3H), 1.43 (s, 9H), 3.23 (d, J=14.3 Hz, 1H), 3.57 (d, J=14.3 Hz, 1H), 3.69 (s, 3H); 13C NMR (75 MHz, CD3OD) □ 20.5, 23.4, 23.6, 29.2, 38.1, 41.1, 53.0, 80.5, 158.5, 177.1; MS (APCI) m/z 172 [M+H-100(Boc)]+.

reactant | 1-cyano-2-isopropyl-cyclopropanecarboxylic acid methyl ester | 46.1 mmol, 7.7 g | COC(=O)C1(C(C1)C(C)C)C#N | C9H13NO2
reactant | sodium borohydride | 461 mmol, 17.4 g | [BH4-].[Na+]
reactant | di-tert-butyldicarbonate | 92.2 mmol, 20.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 560 mL | CO | CH4O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid methyl ester | 10.9 g, 88% | COC(=O)C1(C(C1)C(C)C)CNC(=O)OC(C)(C)C | C14H25NO4
